US03931269
A mixture of 0.05 moles of α-chloro-6-methoxy-2-naphthylacetic acid and 5 g. of sodium hydrosulfide in 100 ml. of absolute ehtanol and under a nitrogen atmosphere is stirred for 15 hours. The mixture is then acidified with 6 N hydrochloric acid. The solvent is removed in vacuo and the residue is extracted into ether, washed with water, saturated sodium chloride solution, dried and evaporated to dryness to obtain α-mercapto-6-methoxy-2-naphthylacetic acid.

reactant | α-chloro-6-methoxy-2-naphthylacetic acid | 0.05 moles | ClC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C13H11ClO3
reactant | sodium hydrosulfide | [SH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
product | α-mercapto-6-methoxy-2-naphthylacetic acid | SC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C13H12O3S
